2156-03-31 04:57:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:  Airway protection post extubation
   24 Hour Events:
   - Stable overnight
   - Unable to place OG tube
   - FiO2 weaned
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefazolin - [**2156-3-30**] 11:40 PM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2156-3-30**] 09:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-3-31**] 04:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.4
C (99.4
   HR: 85 (74 - 87) bpm
   RR: 16 (16 - 17) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,549 mL
                                                                    110 mL
   PO:
             TF:
   IVF:
                                                                  3,549 mL
                                                                    110 mL
   Blood products:
   Total out:
                                                                  2,360 mL
                                                                    925 mL
   Urine:
                                                                    590 mL
                                                                    700 mL
   NG:
   Stool:
   Drains:
                                                                    170 mL
                                                                    225 mL
   Balance:
                                                                  1,189 mL
                                                                   -815 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 26 cmH2O
   Plateau: 19 cmH2O
   Compliance: 42.9 cmH2O/mL
   SpO2: 99%
   ABG: 7.39/45/140//2
   Ve: 9.2 L/min
   PaO2 / FiO2: 280
   Physical Examination
   GENERAL - Sedated, intubated
   NECK - staples in place for horizontal  incision.  Clean, dry, and
   intact.
   LUNGS - Anterolaterally CTA bilat, no r/rh/wh, good air movement, resp
   unlabored, no accessory muscle use
   HEART - PMI non-displaced, RRR, no MRG, nl S1-S2
   Chest:  6 JP drains in place, skin has staples in place.  Wound is
   clean, dry, intact.
   ABDOMEN - NABS, soft/NT/ND, no rebound/guarding
   EXTREMITIES - WWP, no c/c/e.  L Foot deformed, has dopplerable PT
   pulses.  R foot with 2+ Pedal and DP pulses.
   Labs / Radiology
   368 K/uL
   11.2 g/dL
                                     157
   0.9
   23
   4.7
   19
   104
   140
   33.0 %
   17.0 K/uL
        [image002.jpg] Free Ca 1.04
                             [**2156-3-30**]  09:37 PM
                             [**2156-3-31**]  04:19 AM
                             [**2156-3-31**]  04:28 AM
   WBC
   17.0
   Hct
   33.0
   Plt
   368
   TCO2
   23
   28
   Assessment and Plan
   72 y/o male with a history of metastatic melanoma, papillary thyroid
   carcinoma who presents s/p L neck dissection, total thyroidectomy, and
   myocutaneous pectoral flap, who was re-intubated post operatively for
   respiratory distress.
   #. Respiratory failure:  Patient currently tolerating pressure support
   and has gag reflex.  Patient does have brown sputum that is concerning
   for an aspiration pneumonia.  Patient also has significant surgical
   wound on his chest that may limit patient
s ventilation.  Patient has
   gag reflex present.
   -          Place patient back on AC vent settings
   -          Send Sputum specimen
   -          Attempt to replace OG tube
   # Aspiration Pneumonia:  Patient is currently intubated, patient had
   witnessed aspiration event last night.  Patient has elevated WBC, has
   low grade temps.  [**Month (only) 11**] be attributed to being post op, but in light of
   witnessed aspiration event, patient is now being treated with
   levo/flagyl.
   - Repeat CXR as film this AM was poor
   - Continue Levo/Flagyl
   - Send Sputum Cx
   .
   #. s/p thyroidectomy:  Patient is at risk for hypocalcemia.  Currently
   hypocalcemic at 1.04.
   -          Monitor free Calcium, mg, phos q8hrs
   -          Replete Calcium IV
   .
   #. s/p L myocutaneous flap:  Wound is closed, with six JP drains in
   place.  Recommendation is to keep wound clensed, but not dressed for
   now.  Of note, patient had a prior R thigh MSSA abcess earlier this
   month.
   - Continue Cefazolin 1g q8hrs
   .
   #. Hypertension: SBPs .  Patient is on lisinopril at home.  Given that
   patient is currently intubated, and concerned about patient becoming
   septic, will hold on restarting medications.
   - Hold BP medications
   .
   #. Diabetes, type II:
   - Hold home metformin
   - Continue SSI
   .
   #. FEN - NPO for now
   .
   #. Access - 2 18 gauge PIVs
   .
   #. PPx -
   -DVT ppx with Pneumoboots
   -Bowel regimen
   -Pain management with prn fentanyl boluses.
   .
   #. Code - Full code
   .
   #. Dispo - ICU for now, pending respiratory improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2156-3-30**] 08:00 PM
   18 Gauge - [**2156-3-30**] 08:37 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2156-04-01 06:21:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Received 500cc fluid bolus X2 for relative hypotension
   Trying to get out of bed and restraints renewed
   Did not extubate per ENT
   Sputum culture sent
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2156-3-31**] 11:00 PM
   Cefazolin - [**2156-3-31**] 11:33 PM
   Metronidazole - [**2156-3-31**] 11:33 PM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2156-3-31**] 07:58 PM
   Heparin Sodium (Prophylaxis) - [**2156-3-31**] 07:58 PM
   Fentanyl - [**2156-3-31**] 08:40 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-4-1**] 06:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.7
C (99.8
   HR: 90 (83 - 104) bpm
   BP: 104/58(69) {86/53(64) - 123/67(79)} mmHg
   RR: 19 (14 - 24) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,400 mL
                                                                    680 mL
   PO:
             TF:
   IVF:
                                                                  2,400 mL
                                                                    680 mL
   Blood products:
   Total out:
                                                                  3,650 mL
                                                                    990 mL
   Urine:
                                                                  3,200 mL
                                                                    840 mL
   NG:
   Stool:
   Drains:
                                                                    450 mL
                                                                    150 mL
   Balance:
                                                                 -1,250 mL
                                                                   -310 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 437 (437 - 525) mL
   PS : 10 cmH2O
   RR (Set): 12
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 64
   PIP: 16 cmH2O
   Plateau: 18 cmH2O
   SpO2: 97%
   ABG: ///26/
   Ve: 9.5 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   308 K/uL
   9.6 g/dL
   136 mg/dL
   1.0 mg/dL
   26 mEq/L
   3.8 mEq/L
   18 mg/dL
   109 mEq/L
   142 mEq/L
   28.4 %
   14.0 K/uL
        [image002.jpg]
                             [**2156-3-30**]  09:37 PM
                             [**2156-3-31**]  04:19 AM
                             [**2156-3-31**]  04:28 AM
                             [**2156-4-1**]  04:41 AM
   WBC
   17.0
   14.0
   Hct
   33.0
   28.4
   Plt
   368
   308
   Cr
   0.9
   1.0
   TCO2
   23
   28
   Glucose
   157
   136
   Other labs: Albumin:2.9 g/dL, Ca++:7.4 mg/dL, Mg++:2.1 mg/dL, PO4:4.2
   mg/dL
   Assessment and Plan
   72 y/o male with a history of metastatic melanoma, papillary thyroid
   carcinoma who presents s/p L neck dissection, total thyroidectomy, and
   myocutaneous pectoral flap, who was re-intubated post operatively for
   respiratory distress.
   #. Respiratory failure:  Patient currently tolerating pressure support
   and has gag reflex.  Patient does have brown sputum that is concerning
   for an aspiration pneumonia.  Patient also has significant surgical
   wound on his chest that may limit patient
s ventilation.  Patient has
   gag reflex present.
   -          Place patient back on AC vent settings
   -          Send Sputum specimen
   -          Attempt to replace OG tube
   # Aspiration Pneumonia:  Patient is currently intubated, patient had
   witnessed aspiration event last night.  Patient has elevated WBC, has
   low grade temps.  [**Month (only) 11**] be attributed to being post op, but in light of
   witnessed aspiration event, patient is now being treated with
   levo/flagyl.
   - Repeat CXR as film this AM was poor
   - Continue Levo/Flagyl
   - Send Sputum Cx
   .
   #. s/p thyroidectomy:  Patient is at risk for hypocalcemia.  Currently
   hypocalcemic at 1.04.
   -          Monitor free Calcium, mg, phos q8hrs
   -          Replete Calcium IV
   .
   #. s/p L myocutaneous flap:  Wound is closed, with six JP drains in
   place.  Recommendation is to keep wound clensed, but not dressed for
   now.  Of note, patient had a prior R thigh MSSA abcess earlier this
   month.
   - Continue Cefazolin 1g q8hrs
   .
   #. Hypertension: SBPs .  Patient is on lisinopril at home.  Given that
   patient is currently intubated, and concerned about patient becoming
   septic, will hold on restarting medications.
   - Hold BP medications
   .
   #. Diabetes, type II:
   - Hold home metformin
   - Continue SSI
   .
   #. FEN - NPO for now
   .
   #. Access - 2 18 gauge PIVs
   .
   #. PPx -
   -DVT ppx with Pneumoboots
   -Bowel regimen
   -Pain management with prn fentanyl boluses.
   .
   #. Code - Full code
   .
   #. Dispo - ICU for now, pending respiratory improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2156-3-30**] 08:00 PM
   18 Gauge - [**2156-3-31**] 08:55 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2156-04-01 11:15:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   Aspiration Pneumonia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   -Continued thick secretions
   History obtained from Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefazolin - [**2156-4-1**] 08:08 AM
   Metronidazole - [**2156-4-1**] 08:27 AM
   Levofloxacin - [**2156-4-1**] 10:03 AM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2156-3-31**] 08:40 PM
   Famotidine (Pepcid) - [**2156-4-1**] 08:07 AM
   Heparin Sodium (Prophylaxis) - [**2156-4-1**] 08:08 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-4-1**] 11:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.4
C (99.4
   HR: 91 (90 - 104) bpm
   BP: 102/63(72) {86/53(64) - 123/67(79)} mmHg
   RR: 24 (14 - 24) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,400 mL
                                                                  1,405 mL
   PO:
             TF:
   IVF:
                                                                  2,400 mL
                                                                  1,405 mL
   Blood products:
   Total out:
                                                                  3,650 mL
                                                                  1,770 mL
   Urine:
                                                                  3,200 mL
                                                                  1,620 mL
   NG:
   Stool:
   Drains:
                                                                    450 mL
                                                                    150 mL
   Balance:
                                                                 -1,250 mL
                                                                   -361 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PSV/SBT
   Vt (Spontaneous): 475 (437 - 525) mL
   PS : 5 cmH2O
   RR (Spontaneous): 20
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 64
   PIP: 5 cmH2O
   SpO2: 96%
   ABG: ///26/
   Ve: 10 L/min
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Small serous fluid in JP drain, dressing in
   tact
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Crackles : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.6 g/dL
   308 K/uL
   136 mg/dL
   1.0 mg/dL
   26 mEq/L
   3.8 mEq/L
   18 mg/dL
   109 mEq/L
   142 mEq/L
   28.8 %
   14.0 K/uL
        [image002.jpg]
                             [**2156-3-30**]  09:37 PM
                             [**2156-3-31**]  04:19 AM
                             [**2156-3-31**]  04:28 AM
                             [**2156-4-1**]  04:41 AM
                             [**2156-4-1**]  08:37 AM
   WBC
   17.0
   14.0
   Hct
   33.0
   28.4
   28.8
   Plt
   368
   308
   Cr
   0.9
   1.0
   TCO2
   23
   28
   Glucose
   157
   136
   Other labs: Albumin:2.9 g/dL, Ca++:7.4 mg/dL, Mg++:2.1 mg/dL, PO4:4.2
   mg/dL
   Imaging: CXR-Minimal evolution of significant infiltrate--persistent
   low lung volumes
   Assessment and Plan
   72 yo male with THYROID CANCER-now s/p radical neck dissection with
   procedure complicated by significant aspiration pneumonitis and
   requiring re-intubation urgently.
   1)Respiratory Failure-Patient with current barriers to extubation of
   secretion volume and inability to maintain signfiicant capacity for
   cough and secretion clearance.  He has relatively minimal evolution of
   significant new focal consolidation or infiltrate to suggest
   significant new pneumonia but he does have asymetric lung volumes
   right<left.  He has favorable RSBI and tolerance of SBT x45 minutes.
   -Will return to PSV at this time
   -Will await return to full alertness with propofol decrease to
   facilitate extubation
   -Check Abg prior to return to full ventilatory support
   -Secretions have decreased
   -Levo/Flagyl to continue although patient has not evolved
   -Will discuss with ENT prior to extubation as patient has cuff leak and
   gag at this time
   Additional issues to be addressed as defined in the housestaff note of
   this date
 MELANOMA (CANCER, MALIGNANT NEOPLASM, SKIN)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 DIABETES MELLITUS (DM), TYPE II
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   ICU Care
   Nutrition: npo
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2156-3-30**] 08:00 PM
   18 Gauge - [**2156-3-31**] 08:55 AM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2156-04-02 06:58:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Extubated
   out of bed to chair
   Speech and Swallow deferred due to agitation so kept NPO
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2156-4-1**] 10:03 AM
   Cefazolin - [**2156-4-2**] 12:00 AM
   Metronidazole - [**2156-4-2**] 12:00 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2156-4-1**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2156-4-1**] 08:00 PM
   Morphine Sulfate - [**2156-4-2**] 02:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-4-2**] 06:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.5
C (97.7
   HR: 93 (83 - 105) bpm
   BP: 102/63(72) {102/57(68) - 107/63(73)} mmHg
   RR: 24 (8 - 26) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,262 mL
                                                                    913 mL
   PO:
             TF:
   IVF:
                                                                  3,262 mL
                                                                    913 mL
   Blood products:
   Total out:
                                                                  3,715 mL
                                                                    985 mL
   Urine:
                                                                  3,470 mL
                                                                    880 mL
   NG:
   Stool:
   Drains:
                                                                    245 mL
                                                                    105 mL
   Balance:
                                                                   -453 mL
                                                                    -72 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: PSV/SBT
   Vt (Spontaneous): 475 (475 - 492) mL
   PS : 5 cmH2O
   RR (Spontaneous): 20
   PEEP: 0 cmH2O
   FiO2: 50%
   PIP: 5 cmH2O
   SpO2: 96%
   ABG: ///27/
   Ve: 10 L/min
   Physical Examination
   Gen: awake and following commands, extubated
   HEENT: neck dissection wound w/o erythema
   Heart: RRR, II/VI systolic murmur
   Lungs: Decreased breath sounds diffusely
   Abd: Soft, NT, ND, BS+
   Ext: Trace edema
   Labs / Radiology
   321 K/uL
   9.8 g/dL
   151 mg/dL
   0.8 mg/dL
   27 mEq/L
   3.4 mEq/L
   13 mg/dL
   114 mEq/L
   150 mEq/L
   29.6 %
   13.5 K/uL
        [image002.jpg]
                             [**2156-3-30**]  09:37 PM
                             [**2156-3-31**]  04:19 AM
                             [**2156-3-31**]  04:28 AM
                             [**2156-4-1**]  04:41 AM
                             [**2156-4-1**]  08:37 AM
                             [**2156-4-1**]  05:04 PM
                             [**2156-4-2**]  03:58 AM
   WBC
   17.0
   14.0
   13.5
   Hct
   33.0
   28.4
   28.8
   29.7
   29.6
   Plt
   368
   308
   321
   Cr
   0.9
   1.0
   0.8
   TCO2
   23
   28
   Glucose
   157
   136
   151
   Other labs: Albumin:3.1 g/dL, Ca++:7.5 mg/dL, Mg++:2.3 mg/dL, PO4:2.9
   mg/dL
   Assessment and Plan
   72 y/o male with a history of metastatic melanoma, papillary thyroid
   carcinoma who presents s/p L neck dissection reintubated for
   respiratory distress now extubated again.
   -          #. Respiratory failure:  Extubated but still requiring O2,
   possibly fluid overload, but more likely aspiration pneumonitis
   -                 -incentive spirometer
   -                 - wean O2
   # Aspiration Pneumonia/pneumonitis:  Still has thick secretions, though
   not nearly as much. WBC trending down post op but has also been getting
   Abx. No infiltrate on CXR.  4+ GNRs in sputum may represent
   colonization.
   - Consider d/c Levo/Flagyl
   - f/u  Sputum Cx
   .
   #. s/p thyroidectomy w/ parathyroidectomy:  Patient is at risk for
   hypocalcemia.  Hypocalcemic this am.
   -          Monitor free Calcium, mg, phos q8hrs
   -          Replete Calcium IV
   .
   #. s/p L myocutaneous flap:  Wound is closed, with six JP drains in
   place.  Recommendation is to keep wound clensed, but not dressed for
   now.  Of note, patient had a prior R thigh MSSA abcess earlier this
   month.
   - Continue Cefazolin 1g q8hrs per ENT
   .
   #. Hypertension: SBPs .  Patient is on lisinopril at home.  Given that
   patient is currently intubated, and concerned about patient becoming
   septic, will hold on restarting medications.
   - Hold BP medications
   .
   #. Diabetes, type II:
   - Hold home metformin
   - Continue SSI
   .
   #. FEN - NPO for now, will evaluate for aspiration given event that
   caused him to be reintubated.
   - speech and swallow cs
   .
   #. Access - 2 18 gauge PIVs
   .
   #. PPx -
   -DVT ppx with Pneumoboots
   -Bowel regimen
   -Pain management with prn fentanyl boluses.
   .
   #. Code - Full code
   .
   #. Dispo - ICU for now, pending respiratory improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2156-3-30**] 08:00 PM
   18 Gauge - [**2156-3-31**] 08:55 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2156-04-02 13:00:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: 72yo with met melanoma and papillary thyroid Ca, s/p
   total thyroidectomy. Post-op course c/b aspiration, post-extubation,
   requiring re-intubation.
   HPI:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2156-4-1**] 12:08 PM
   - Yesterday patient extubated to 2L NC, with no complications.
   - No major overnight events.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2156-4-1**] 10:03 AM
   Cefazolin - [**2156-4-2**] 08:06 AM
   Metronidazole - [**2156-4-2**] 08:06 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2156-4-2**] 07:45 AM
   Heparin Sodium (Prophylaxis) - [**2156-4-2**] 08:06 AM
   Morphine Sulfate - [**2156-4-2**] 08:18 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-4-2**] 12:59 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.9
C (98.4
   HR: 94 (83 - 105) bpm
   BP: 126/73(86) {126/72(85) - 131/73(86)} mmHg
   RR: 24 (14 - 26) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,262 mL
                                                                  1,938 mL
   PO:
             TF:
   IVF:
                                                                  3,262 mL
                                                                  1,938 mL
   Blood products:
   Total out:
                                                                  3,715 mL
                                                                  1,595 mL
   Urine:
                                                                  3,470 mL
                                                                  1,490 mL
   NG:
   Stool:
   Drains:
                                                                    245 mL
                                                                    105 mL
   Balance:
                                                                   -453 mL
                                                                    343 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   FiO2: 2L NC
   SpO2: 98%
   ABG: ///27/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), RRR, no m/r/g
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   No(t) Crackles : , No(t) Bronchial: )
   Abdominal: Soft
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed, R. facial droop.
   Labs / Radiology
   9.8 g/dL
   321 K/uL
   151 mg/dL
   0.8 mg/dL
   27 mEq/L
   3.4 mEq/L
   13 mg/dL
   114 mEq/L
   150 mEq/L
   29.6 %
   13.5 K/uL
        [image002.jpg]
                             [**2156-3-30**]  09:37 PM
                             [**2156-3-31**]  04:19 AM
                             [**2156-3-31**]  04:28 AM
                             [**2156-4-1**]  04:41 AM
                             [**2156-4-1**]  08:37 AM
                             [**2156-4-1**]  05:04 PM
                             [**2156-4-2**]  03:58 AM
   WBC
   17.0
   14.0
   13.5
   Hct
   33.0
   28.4
   28.8
   29.7
   29.6
   Plt
   368
   308
   321
   Cr
   0.9
   1.0
   0.8
   TCO2
   23
   28
   Glucose
   157
   136
   151
   Other labs: Albumin:3.1 g/dL, Ca++:7.5 mg/dL, Mg++:2.3 mg/dL, PO4:2.9
   mg/dL
   Imaging: No CXR today
   Assessment and Plan
   72 with metastatic  melanoma, papillary thyroid Ca s/p resection,
   course c/b aspiration event, re-intubation. Now extubated and stable on
   2L NC.
   1. Resp- stable on 2L NC
       - Wean FiO2 to keep SpO2>92%
       - Aspiration pneumonitis.
       - Incentive spirometry
   2. Thyroidectomy
       - on IV synthroid
       - Will f/u pathology specimen
       - No evidence hypoparathyroidism.
       - On Cephalexin for post-op prophylaxis
   3. Hypernatremia
       - f/u q8hr Na --> replete free water with D5W
   4. Nutrition
       - s/p speech and swallow eval and VFSS --> f/u recommendations
       - Currently npo
   5. Neuro
       - s/p facial nerve deficit, c/w surgical removal parotid gland
       - AOx3
   5. ICU
       - Access= PIV
       - Full Code
       - Prophy --> SCDs/TEDS, H2- blocker
       - Dispo- awaits surgical floor bed.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2156-3-30**] 08:00 PM
   18 Gauge - [**2156-3-31**] 08:55 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :
   Total time spent: 25 minutes